US08114872B2
2-Benzo[b]thiophen-7-yl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Combine 7-bromo-benzo[b]thiophene (426 mg, 2 mmol), bis(pinacolato)diboron (756 mg, 3 mmol), Pd(dppf)Cl2 (81 mg, 0.1 mmol), and potassium acetate (294 mg, 3 mmol) in dimethylsulfoxide (DMSO) (10 mL) in a flask. Bubble nitrogen through the mixture for 5 min. Seal the flask and put it into an oil bath and heat to 100° C. for 4 hours (h). Dilute the mixture with chloroform/isopropyl alcohol (IPA) (3/1). Wash the solution with saturated aqueous sodium chloride. Dry over sodium sulfate. Concentrate the solution in vacuo to a dark residue. Purify by column chromatography (hexane→20% ethyl acetate in hexane) to afford the title compound as a colorless solid (342 mg, 66%). MS (ES) m/z 261 [M+1]+.

reactant | 7-bromo-benzo[b]thiophene | 2 mmol, 426 mg | BrC1=CC=CC2=C1SC=C2 | C8H5BrS
reactant | bis(pinacolato)diboron | 3 mmol, 756 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3 mmol, 294 mg | C(C)(=O)[O-].[K+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | chloroform isopropyl alcohol | C(Cl)(Cl)Cl.C(C)(C)O
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 81 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Benzo[b]thiophen-7-yl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 342 mg, 66% | S1C2=C(C=C1)C=CC=C2B2OC(C(O2)(C)C)(C)C | C14H17BO2S
